US07132432B2
A mixture of 4-vinylphenol (10% wt. solution in propylene glycol) (1.25 g, 1.04 mmol), 4-Chloromethyl-2-methylquinoline (0.24 g, 1.2 eq), Cs2CO3 (0.85 g, 2.5 eq) and NaI (0.20 g, 1.2 eq) in DMSO (1 ml) was stirred at rt overnight. After work up, the residue was purified by flash column chromatography (40% ethyl acetate-hexanes) to give 2-methyl-4-(4-vinyl-phenoxymethyl)-quinoline (0.134 g, 46.8%) as a white solid. MS Found: (M+H)+=276.

reactant | 4-vinylphenol | 1.04 mmol, 1.25 g | C(=C)C1=CC=C(C=C1)O | C8H8O
reactant | 4-Chloromethyl-2-methylquinoline | 0.24 g, 1.2 eq | ClCC1=CC(=NC2=CC=CC=C12)C | C11H10ClN
reactant | Cs2CO3 | 0.85 g, 2.5 eq | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | NaI | 0.20 g, 1.2 eq | [Na+].[I-]
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
product | 2-methyl-4-(4-vinyl-phenoxymethyl)-quinoline | 0.134 g, 46.8% | CC1=NC2=CC=CC=C2C(=C1)COC1=CC=C(C=C1)C=C | C19H17NO
